US07407961B2
A mixture of 5-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone (100 mg), acrylamide (55 mg), Pd(OAc)2 (3 mg), tris(2-methylphenyl)phosphine (8 mg), NEt3 (0.11 ml), and DMF (1.0 ml) was heated with stirring at 60° C. for 1 hour and then at 90° C. for 5 hours. After cooling, EtOAc and water were poured into the mixture, and the organic layer was separated, washed with water and brine, and dried over MgSO4. The solvent was removed under reduced pressure. The residue was recrystallized from EtOAc and dried in vacuo to give (2E)-3-[3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinyl]acrylamide (70 mg).

reactant | 5-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone | 100 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C18H17BrN4O
reactant | acrylamide | 55 mg | C(C=C)(=O)N | C3H5NO
reactant | tris(2-methylphenyl)phosphine | 8 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | NEt3 | 0.11 ml | CCN(CC)CC | C6H15N
catalyst | Pd(OAc)2 | 3 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | (2E)-3-[3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-5-phenyl-2-pyrazinyl]acrylamide | 70 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=CN(C(C=C1)=O)C(C)C)/C=C/C(=O)N | C21H21N5O2
